US08957074B2
Following general amide formation method 3, 6-(7-cycloheptyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid was combined with 8-methyl-3-azabicyclo[3.2.1]octan-8-ol which gave 7-cycloheptyl-2-(5-(8-hydroxy-8-methyl-3-azabicyclo[3.2.1]octane-3-carbonyl)pyridin-2-ylamino)-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (68 mg) in 26% yield. 1H NMR (400 MHz, CDCl3) δ ppm 9.65 (s, 1H) 8.93-8.86 (m, 1H) 8.68 (d, J=8.59 Hz, 1H) 8.55 (d, J=2.02 Hz, 1H) 7.82 (dd, J=8.84, 2.27 Hz, 1H) 6.52-6.39 (m, 1H) 4.45-4.60 (m, 1H) 4.39 (br. s., 1H) 3.96 (br. s., 1H) 3.63-3.39 (m, 2H) 3.15 (s, 6H) 2.76-2.51 (m, 3H) 2.14 (br. s., 1H) 2.07-1.93 (m, 2H) 1.85 (ddd, J=6.95, 3.41, 3.28 Hz, 3H) 1.80-1.61 (m, 7H) 1.61-1.48 (m, 2H) 1.48-1.36 (m, 1H) 1.30 (s, 3H); HR-MS (m/z MH+) 546.32 RT 3.99 min.

reactant | 6-(7-cycloheptyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid | C1(CCCCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)O)C=C2)C(N(C)C)=O | C22H26N6O3
reactant | 8-methyl-3-azabicyclo[3.2.1]octan-8-ol | CC1(C2CNCC1CC2)O | C8H15NO
product | 7-cycloheptyl-2-(5-(8-hydroxy-8-methyl-3-azabicyclo[3.2.1]octane-3-carbonyl)pyridin-2-ylamino)-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 68 mg, 26% yield | C1(CCCCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)C(=O)N2CC1CCC(C2)C1(C)O)C(=O)N(C)C | C30H39N7O3
